US09145393B2
To a solution of benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-methoxy-[3,4′-bipyridin]-5-yl)carbamate (216 mg, 0.42 mmol) in MeCN (50 mL) was added trimethylsilylchloride (0.18 mL, 2.1 mmol), sodium iodide (317 mg, 2.10 mmol), and the mixture was stirred at RT for 1.5 h. The precipitate was then collected by filtration. This solid was dissolved in a mixture of MeCN (1 mL) and water (50 mL) and then added to a solution of saturated aq. NaHCO3 (10 mL). The suspension was then stirred for 30 min, filtered and dried to afford benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-oxo-1,6-dihydro-[3,4′-bipyridin]-5-yl)carbamate (210 mg, 99% yield) as a yellow solid: MS (ES) m/z 497 (M+H).

reactant | benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-methoxy-[3,4′-bipyridin]-5-yl)carbamate | 0.42 mmol, 216 mg | C(C)(C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC(=C1)C=1C=NC(=C(C1)NC(OCC1=CC=CC=C1)=O)OC)C | C30H30N4O4
reactant | trimethylsilylchloride | 2.1 mmol, 0.18 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 2.10 mmol, 317 mg | [I-].[Na+]
solvent | MeCN | 50 mL | CC#N | C2H3N
product | benzyl (2′-((4-isopropyl-3-methylphenyl)carbamoyl)-6-oxo-1,6-dihydro-[3,4′-bipyridin]-5-yl)carbamate | 210 mg, 99% yield | C(C)(C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC(=C1)C1=CNC(C(=C1)NC(OCC1=CC=CC=C1)=O)=O)C | C29H28N4O4
